US04979978
Preparation of (3-Chloro-2-methoxymethoxy-phenyl)(2-methoxyphenyl)methanol
A solution containing 69 ml of 1.6 N butyl lithium (0.11 mol) and 12.78 g (0.11 mol) of tetramethylethylenediamine was prepared under nitrogen and cooled to 0° C. To this was added, with stirring and cooling at 0° C., 16.83 g (0.098 mol) of 1-chloro-2-methoxymethoxybenzene. After 3 hours 13.34 g (0.098 mol) of o-anisaldehyde in 40 ml of anhydrous tetrahydrofuran was added slowly at 0°-5° C. and allowed to react. The product was then poured into a mixture of ice and saturated aqueous ammonium chloride and the resulting mixture was extracted with ether. The ether extract was dried over magnesium sulfate and then the volatiles were removed by evaporation under reduced pressure to obtain 29.3 g of crude title compound as a yellow solid. This was purified by preparative liquid chromatography eluting with a 10:90 mixture of acetone and hexane to obtain 21.1 g (70 percent of theory) of the title compound as a white solid melting at 89°-90° C. The proton nmr spectrum was consistent with the assigned structure.

reactant | butyl lithium | 0.11 mol, 1.6 N, 69 ml | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.11 mol, 12.78 g | CN(CCN(C)C)C | C6H16N2
reactant | 1-chloro-2-methoxymethoxybenzene | 0.098 mol, 16.83 g | ClC1=C(C=CC=C1)OCOC | C8H9ClO2
reactant | o-anisaldehyde | 0.098 mol, 13.34 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (3-Chloro-2-methoxymethoxy-phenyl)(2-methoxyphenyl)methanol | ClC=1C(=C(C=CC1)C(O)C1=C(C=CC=C1)OC)OCOC | C16H17ClO4
